US06252082B1
Methyl 4-[[4- (acetylamino)phenyl]methyl]-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate
It is prepared from 7.3 g (27 mmol) of N-acetyl-N-[4-(bromomethyl)phenyl]acetamide and 4 g (13.4 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate. The crude product is treated with ammonia.

reactant | N-acetyl-N-[4-(bromomethyl)phenyl]acetamide | 27 mmol, 7.3 g | C(C)(=O)N(C(C)=O)C1=CC=C(C=C1)CBr | C11H12BrNO2
reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 13.4 mmol, 4 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | ammonia | N | H3N
product | Methyl 4-[[4- (acetylamino)phenyl]methyl]-6-methyl-3-nitro-2-oxo-1,2-dihydropyridine-1-acetate | C(C)(=O)NC1=CC=C(C=C1)CC1=C(C(N(C(=C1)C)CC(=O)OC)=O)[N+](=O)[O-] | C18H19N3O6
